US06960588B1
A27. 3-[4-(3-Hydroxyprop-1-ynyl)thiophen-3-yl]prop-2-yn-1-ol
Pd(Ph3P)4 (116 mg, 2%), CuI (28 mg, 3%) and propargyl alcohol (0.9 ml, 15 mmol) are added successively to a solution of 3,4-dibromothiophene (1.18 g, 5.0 mmol) in n-propylamine (15 ml), and the reaction mixture is stirred at RT for 1 h and then under reflux for 7 h. More Pd(Ph3P)4 (58 mg, 1%), CuI (14 mg, 1.5%) and propargyl alcohol (0.45 ml, 7.5 mmol) are then added and the mixture is stirred under reflux for another 8 h. After cooling, the reaction mixture is filtered off through kieselguhr and washed with ethyl acetate (20 ml). The organic phase is concentrated under reduced pressure. Further purification is carried out by chromatography [Tol/Ac (8:2)] over a silica gel column. This gives the title compound (0.84 g) as a colorless solid. TLC, silica gel (glass plates), [toluene/acetone (8:2)], Rf=0.22.

reactant | propargyl alcohol | 15 mmol, 0.9 ml | C(C#C)O | C3H4O
reactant | 3,4-dibromothiophene | 5.0 mmol, 1.18 g | BrC1=CSC=C1Br | C4H2Br2S
reactant | propargyl alcohol | 7.5 mmol, 0.45 ml | C(C#C)O | C3H4O
solvent | n-propylamine | 15 ml | C(CC)N | C3H9N
catalyst | Pd(Ph3P)4 | 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 28 mg | [Cu]I
catalyst | Pd(Ph3P)4 | 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | CuI | 14 mg | [Cu]I
product | 3-[4-(3-Hydroxyprop-1-ynyl)thiophen-3-yl]prop-2-yn-1-ol | 0.84 g | OCC#CC=1C(=CSC1)C#CCO | C10H8O2S
